US04713387
In 9.25 ml of methylene chloride was dissolved 1.85 g of (E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyl alcohol, and 2.80 ml of thionyl chloride was dropped into the resulting solution with ice-cooling, after which the resulting mixture was subjected to reaction under reflux for 30 minutes. The solvent and the excessive thionyl chloride were removed by distillation under reduced pressure to obtain oily (E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyl chloride hydrochloride.

reactant | (E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyl alcohol | 1.85 g | N1=CC(=CC=C1)CC1=CC=C(C=C1)/C=C(/CO)\C | C16H17NO
reactant | thionyl chloride | 2.80 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 9.25 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-[4-(pyridin-3-ylmethyl)phenyl]-2-methylallyl chloride hydrochloride | Cl.N1=CC(=CC=C1)CC1=CC=C(C=C1)/C=C(/CCl)\C | InChI=1S/C16H16ClN.ClH/c1-13(11-17)9-14-4-6-15(7-5-14)10-16-3-2-8-18-12-16;/h2-9,12H,10-11H2,1H3;1H/b13-9+;
